US04464390
For example, 8.6 g (50 mmol) of 1-undecanol, 5 ml (1.07 eq.) n-propyl isocyanate and 50 ml diethyl ether were heated in a stainless steel bomb at 65° for 72 hours. Solvent and excess isocyanate were removed on a rotary evaporator and the residue was crystallized from hexane to give 11.5 g (89%) of 1-undecyl propylcarbamate, mp 45°-45.5°.

reactant | 1-undecanol | 50 mmol, 8.6 g | C(CCCCCCCCCC)O | C11H24O
reactant | n-propyl isocyanate | 5 ml, 1.07 eq. | C(CC)N=C=O | C4H7NO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-undecyl propylcarbamate | 11.5 g, 89% | C(CC)NC(OCCCCCCCCCCC)=O | C15H31NO2
